US07141596B2
Step 2. Synthesis of 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid
Methyl 3-bromo-4-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]benzoate (300 mg, 1.00 mmol) dissolved in ethanol (2.0 mL) was added to sodium bisulfite (209 mg, 2.00 mmol) in water (2.0 mL). The reaction mixture was heated in the microwave at 165° C. with stirring for 30 minutes. The colorless solution was purified by preparative LCMS to afford product as a white solid (0.26 g, 68%). 1H NMR (400 MHz, CDCl3): δ 8.19 (d, J=1.5 Hz, 1H), 7.93 (dd, J=8.2, 1.8 Hz, 1H), 7.74 (d, J=8.2 Hz, 1H), 5.18 (dd, J=10.0, 5.1 Hz, 1H), 3.88 (s, 3H), 3.55 (s, 3H), 3.38 (dd, J=16.5, 5.1 Hz, 1H), 3.08 (dd, J=16.5, 10.0 Hz, 1H). LCMS found for C12H12BrO7S (M−H)−: m/z=378, 380.

reactant | Methyl 3-bromo-4-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]benzoate | 1.00 mmol, 300 mg | BrC=1C=C(C(=O)OC)C=CC1\C=C\C(=O)OC | C12H11BrO4
reactant | sodium bisulfite | 2.00 mmol, 209 mg | S([O-])(O)=O.[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid | 0.26 g, 68% | BrC1=C(C=CC(=C1)C(=O)OC)C(CC(=O)OC)S(=O)(=O)O | C12H13BrO7S
